US08193378B2
The suspension of 4-bromo-5-ethylthiophene-2-carboxylic acid (800 mg) in MeOH (4 mL) was added dropwise SOCl2 (0.50 mL) at 0° C. The reaction mixture was stirred at 0° C. for 1 hour, warmed to 60° C., and then stirred for 15 hours. The reaction liquid was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=98:2 to 70:30) to obtain methyl 4-bromo-5-ethylthiophene-2-carboxylate (765.0 mg) as a colorless liquid.

reactant | 4-bromo-5-ethylthiophene-2-carboxylic acid | 800 mg | BrC=1C=C(SC1CC)C(=O)O | C7H7BrO2S
reactant | SOCl2 | 0.50 mL | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 4 mL | CO | CH4O
product | methyl 4-bromo-5-ethylthiophene-2-carboxylate | 765.0 mg | BrC=1C=C(SC1CC)C(=O)OC | C8H9BrO2S
